US06492481B1
A 100 mL round bottomed flask was charged with eugenol acetate (16.5 g, 80 mmol), which had been prepared from the reaction of eugenol with acetic anhydride, and 25 microliters of Karstedt's catalyst. Dimethylchlorosilane (7.56 g, 80 mmol) was added slowly over 20 minutes. After 1.5 hr the reaction was complete (as judged by 1H-NMR) and 3-(4-acetoxy-3-methoxyphenyl)prop-1-yl dimethylchlorosilane (21.1 g, 88% yield) was isolated by vacuum distillation (boiling point (bp)=150° C./0.5 mmHg). A 100 mL round bottomed flask was charged with 3-(4-acetoxy-3-methoxyphenyl)prop-1-yl dimethylchlorosilane (15.0 g, 50 mmol) and 25 mL of toluene. A 65 weight percent solution of sodium bis(2-methoxyethoxy)aluminum hydride in toluene (7.0 mL, 50 mmol) was added over 30 minutes. After quenching in 6N HCl (100 mL), the product in toluene was washed 3 times with water, dried over MgSO4 and the toluene removed under reduced pressure. Vacuum distillation gave 3-(4-acetoxy-3-methoxyphenyl)prop-1-yl dimethylsilane (8.5 g, bp 90° C./0.5 mmHg). A 100 mL Morton flask was charged with 3-(4-acetoxy-3-methoxyphenyl)prop-1-yl dimethylsilane (8.0 g, 30 mmol), eugenol (6.56 g, 40 mmol), toluene (25 mL) and platinum on carbon (5% Pt on C, 0.05 g). After heating at reflux for 1.5 hr, the reaction mixture was cooled and filtered. The toluene was removed and the crude product stripped of volatiles at 125° C. at a pressure of 0.5 mmHg. Residual acetate groups were removed by treating the coupled product with K2CO3 in methanol/water, diluting the reaction mixture to 5 weight percent HCl, extracting with ether, drying the organic layer over MgSO4 and concentrating under reduced pressure to afford eugenol siloxane bisphenol (8.0 g) wherein p is zero.

reactant | 3-(4-acetoxy-3-methoxyphenyl)prop-1-yl dimethylchlorosilane | 50 mmol, 15.0 g | C(C)(=O)OC1=C(C=C(C=C1)CCC[Si](Cl)(C)C)OC | C14H21ClO3Si
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mmol, 7.0 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-acetoxy-3-methoxyphenyl)prop-1-yl dimethylsilane | 8.5 g | C(C)(=O)OC1=C(C=C(C=C1)CCC[SiH](C)C)OC | C14H22O3Si
